data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_202673_2,[C:1](/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](\[N:6]([H:12])[H:13])[H:14])([N:5]([H:10])[H:11])([O:8][C:2]([H:15])([H:16])[H:17])[H:9]>>[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([C:3]([H:18])([H:19])[H:20])([O:8][C:2]([H:15])([H:16])[H:17])[C:7]1([N:6]([H:12])[H:13])[H:14],54.61006999998446
MR_169476_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([H:8])[H:9])(/[N:6]=[C:5](/[N:4]([H:10])[H:11])[H:12])[H:7]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:6]\[C:5]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:12])[H:7],63.03174749994497
MR_473275_0,[C:1]1([H:5])([H:6])[C:2]([O:4])[O:3]1>>[C:1]([C:2](=[O:4])[H:6])(=[O:3])[H:5],44.21615999999183
MR_192466_0,[C:1]([C:2]([C:3](=[O:5])[H:7])[N:4][H:6])([H:8])([H:9])[H:10]>>[C:1]([C@:3]1([H:7])/[C:2](=[N:4]/[H:6])[O:5]1)([H:8])([H:9])[H:10],70.448170000018
MR_127666_1,[C:1]([C:5]([C:4](/[C:3](=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:15])[O:9][H:10])[N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:16])([H:17])[H:18]>>[C:1]([C@:5]1([N:7]([H:13])[H:14])[C:4]([N:6]([H:11])[H:12])=[C:3]([O:9][H:10])[C@:8]1([C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18],46.459472500017256
MR_565852_0,[C:1]([O:5][H:8])(=[N:6]\[N:2]([H:9])[H:10])/[N:7]=[C:4](\[N:3]([H:11])[H:12])[H:13]>>[C:1]1([O:5][H:8])=[N:7][C@:4]([N:3]([H:11])[H:12])([H:13])[N:6]1[N:2]([H:9])[H:10],36.32471999999453
MR_576177_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:7]([C:4]([H:18])([H:19])[H:20])=[C:8]([C:5]([H:21])([H:22])[H:23])[C:6]([H:24])([H:25])[H:26])[O:9][O:10][H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[C:7]([C:4]([H:18])([H:19])[H:20])[C:8]([C:5]([H:21])([H:22])[H:23])([C:6]([H:24])([H:25])[H:26])[O:9][O:10][H:11],47.235689999983634
MR_122943_0,[C:1]([N:5]([C:4]([H:16])([H:17])[H:18])[O:6][C:2]([H:10])([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])([H:8])[H:9]>>[C:1]([N:5]([C:4]([H:16])([H:17])[H:18])[O:7][C:3]([H:13])([H:14])[H:15])([O:6][C:2]([H:10])([H:11])[H:12])([H:8])[H:9],71.27144999997256
MR_614091_1,[C:1]([C:5](/[C:3](=[C:4](\[N:6]([H:12])[H:13])[O:9][H:11])[O:8][H:10])=[C:7](/[C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:5]1=[C:3]([O:8][H:10])[C:4]([N:6]([H:12])[H:13])([O:9][H:11])[C:7]1([C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17],39.33232750003427
MR_68687_0,[C:1]([C:2]([C:3](=[O:6])[H:12])([H:10])[H:11])([O:4][H:8])([O:5][H:7])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:8])([O:6][H:7])[H:12])([H:10])[H:11])(=[O:5])[H:9],40.39154749996385
MR_580836_0,[C:1]([C:2]([N:4]([H:10])[H:11])=[O:8])(/[C:3]([N:5]([H:12])[H:13])=[C:6](\[O:7][H:9])[H:14])([H:15])[H:16]>>[C:1](=[C:3]([N:5]([H:12])[H:13])[C:6]([C:2]([N:4]([H:10])[H:11])=[O:8])([O:7][H:9])[H:14])([H:15])[H:16],62.32455499998267
MR_512601_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:7][H:12])=[O:9])=[O:8])([O:5][H:10])[O:6][H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:7][H:12])=[O:9])([O:6][H:11])[O:8][H:10])=[O:5],30.29444500006008
MR_640260_1,[C:1](=[N:5]/[H:10])(\[O:6][C:2]([C:3]([O:7][H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:9])[H:8]>>[C:1]1([N:5]([H:10])[H:11])([H:8])[O:6][C:2]([C:4]([H:14])([H:15])[H:16])([H:9])[C:3]([H:12])([H:13])[O:7]1,41.52732250002117
MR_80798_0,[C:1]([C@@:4]1([N:6]([H:7])[H:8])[C:3]([H:15])([H:16])[C@@:5]1([C:2]([H:12])([H:13])[H:14])[H:17])([H:9])([H:10])[H:11]>>[C:1]([C:4](=[C:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[N:6]([H:7])[H:8])([H:9])([H:10])[H:11],64.52456999999256
MR_163861_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])(/[C:5]([C:4]([H:16])([H:17])[H:18])=[N:7]/[H:9])[O:6][H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[C@@:5]([C:4]([H:16])([H:17])[H:18])([O:6][H:8])[N:7]1[H:9],70.62763499999292
MR_523880_2,[C:1]([C:4]([H:16])([H:17])[H:18])(=[O:6])[N:7]([N:5]([C:2]([H:11])([H:12])[H:13])[C:3]([H:10])([H:14])[H:15])[O:8][H:9]>>[C:1]([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([H:11])([H:12])[H:13])[C:3]([H:10])([H:14])[H:15])([O:6][H:9])[N:7]=[O:8],33.17969000001639
MR_621089_1,[C:1]1([O:6][H:7])([H:8])[C:2]([N:5]([H:11])[H:12])([H:9])[C:3]1([C:4]([H:13])([H:14])[H:15])[H:10]>>[C:1](=[C:2](/[C:3]([C:4]([H:13])([H:14])[H:15])([H:9])[H:10])[N:5]([H:11])[H:12])(\[O:6][H:7])[H:8],57.6772899999807
MR_74645_2,[C:1](\[C:3]([H:14])([H:15])[H:19])(=[C:6](/[N:7]1[C:4]([C:2]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[N:8]1[H:12])[H:13])[H:9]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])(/[C:6](=[N:7]\[C:4]([N:5]([H:10])[H:11])=[N:8]\[H:12])[H:13])[H:9],64.43421000000669
MR_202407_0,[C:1]([C:2]([O:5][C:4]([N:3]([H:8])[H:9])=[O:7])([H:11])[H:12])(=[O:6])[H:10]>>[C:1]1([O:6][H:8])([H:10])[C:2]([H:11])([H:12])[O:5][C:4](=[O:7])[N:3]1[H:9],51.55790999998587
MR_179021_1,[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])=[O:8])=[N:6]\[C:5](=[N:7]\[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([C:2]([N:4]([H:9])[H:10])=[O:8])[N:6]=[C:5]([H:12])[N:7]1[H:11])([H:13])([H:14])[H:15],37.76043999997228
